US05786494
Stage 1: Dimethyl benzylidenemalonate
Into a one-liter three-necked conical flask are introduced in succession 60 g (565.39 mmol) of benzaldehyde, 77 g of dimethyl malonate (565.32 mmol), 3.85 g of piperidine (45.21 mmol), 130 ml of toluene and 2.71 g (45.16 mmol) of acetic acid.

reactant | benzaldehyde | 565.39 mmol, 60 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | dimethyl malonate | 565.32 mmol, 77 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | piperidine | 45.21 mmol, 3.85 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 45.16 mmol, 2.71 g | C(C)(=O)O | C2H4O2
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | Dimethyl benzylidenemalonate | C(C1=CC=CC=C1)=C(C(=O)OC)C(=O)OC | C12H12O4
